US04062798
1.5 g. of 5-n-pentyl-2-(4'-bromo-4-biphenylyl)-pyrimidine are heated to the reflux for 22 hours with 2.5 g. of copper-(I) cyanide (content 70%) in 50 ml. of dimethylformamide. After cooling, 25 ml. of 10% strength aqueous ethylenediamine solution are added and, after stirring for a short time, the mixture is extracted with methylene chloride. The organic extract is shaken again with 25 ml. of ethylenediamine solution and then washed until it gives a neutral reaction. The crude concentrate is chromatographed with toluene/1% acetone on silica gel. Recrystallization of the pure fractions from ethyl acetate gives 5-n-pentyl-2-(4'-cyano-4-biphenylyl)-pyrimidine, m.p. 123.5°-124°; cl.p. 204.5°-205°.

reactant | 5-n-pentyl-2-(4'-bromo-4-biphenylyl)-pyrimidine | C(CCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)C1=CC=C(C=C1)Br | C21H21BrN2
reactant | copper-(I) cyanide | [Cu]C#N
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-n-pentyl-2-(4'-cyano-4-biphenylyl)-pyrimidine | C(CCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C22H21N3
